US04234588
A solution of ethyl 2-formyl-3-(6-methyl-3-pyridyl)propionate (1.55 g) in methanol (20 ml) was added to a solution of sodium methoxide (from 0.161 g sodium) in methanol (20 ml). Dried nitroguanidine (0.729 g) was added over 5 minutes and the mixture was stirred and boiled under reflux overnight and evaporated to dryness. The residue was dissolved in water (50 ml) and the solution was extracted with chloroform (2×25 ml, discarded) and acidified to pH 5 with acetic acid. The solid which precipitated out was filtered off and recrystallised from methanol-acetic acid to give 2-nitroamino-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone (0.5 g) m.p. 215°-216° (decomp.).

reactant | ethyl 2-formyl-3-(6-methyl-3-pyridyl)propionate | 1.55 g | C(=O)C(C(=O)OCC)CC=1C=NC(=CC1)C | C12H15NO3
reactant | sodium methoxide | 0.161 g | C[O-].[Na+]
reactant | nitroguanidine | 0.729 g | [N+](=O)([O-])NC(=N)N | CH4N4O2
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 2-nitroamino-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone | 0.5 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C11H11N5O3
